US07173025B1
To a suspension of 4-(4-pyridyl)piperazine (13.1 g) in ethyl acetate (200 ml) was added triethylamine (56 ml) followed dropwise, over 5 hours, by a solution of methyl 4-bromomethylbenzoate (18.41 g). The mixture was stirred at room temperature for 18 hours. The mixture was partitioned between water and ethyl acetate. The organic extracts were dried (MgSO4) and evaporated to give a gum, which was purified by column chromatograhy on silica eluting with increasing concentrations of methanol/dichloromethane to give methyl 4-(4-(4-pyridyl)piperazin-1-ylmethyl)benzoate (13.1 g) as a solid;

reactant | 4-(4-pyridyl)piperazine | 13.1 g | N1=CC=C(C=C1)N1CCNCC1 | C9H13N3
reactant | triethylamine | 56 ml | C(C)N(CC)CC | C6H15N
reactant | methyl 4-bromomethylbenzoate | 18.41 g | BrCC1=CC=C(C(=O)OC)C=C1 | C9H9BrO2
solvent | ethyl acetate | 200 ml | C(C)(=O)OCC | C4H8O2
product | methyl 4-(4-(4-pyridyl)piperazin-1-ylmethyl)benzoate | 13.1 g | N1=CC=C(C=C1)N1CCN(CC1)CC1=CC=C(C(=O)OC)C=C1 | C18H21N3O2
